US07057073B2
Diaminopicric acid (0.193 g, 0.748 mmol) and diammonium hydrogen phosphate (0.990 g, 7.50 mmol) are suspended in dry sulfolane (3 ml) and stirred in a Teflon® capped glass pressure tube (8 ml). The suspension is heated with stirring from ambient temperature to 177° C. over a 2 hr period. Stirring and heating (177° C.) is continued for an additional 6 hours. The reaction tube is cooled to 4° C. and the resulting suspension is mixed with water (40 ml). The precipitated product is collected, washed with water and dried to yield TATB in the form of a brown solid (0.154 g, 80%).

reactant | Diaminopicric acid | 0.748 mmol, 0.193 g | NC1=C(C(=C([N+](=O)[O-])C(=C1[N+](=O)[O-])O)N)[N+](=O)[O-] | C6H5N5O7
reactant | diammonium hydrogen phosphate | 7.50 mmol, 0.990 g | P(=O)(O)([O-])[O-].[NH4+].[NH4+]
reactant | water | 40 ml | O | H2O
solvent | sulfolane | 3 ml | S1(=O)(=O)CCCC1 | C4H8O2S
product | TATB | C1(=C(C(=C(C(=C1[N+](=O)[O-])N)[N+](=O)[O-])N)[N+](=O)[O-])N | C6H6N6O6
